US05270324
Step 1: 1-(3-(2-(7-chloro-2-quinolinyl)ethenyl)phenyl)-2-propen-1-ol
To a degassed suspension of 3-(2-(7-chloro-2-quinolinyl)ethenyl)benzaldehyde (U.S. Pat. No. 4,851,409, Example 24, Step 1) (100 g, 0.34 mol) in toluene (700 mL) at 0° C. was slowly added 1.0M vinylmagnesium bromide in toluene/THF (370 mL, 0.37 mol). After stirring for 1 hour at 0° C., the reaction was quenched by the slow addition of saturated NH4Cl solution (150 ml), followed by H2O (500 mL) and HOAc (50 mL). The product was extracted with EtOAc and the two-phase system was filtered through celite to remove an insoluble precipitate. The aqueous phase was then re-extracted with EtOAc (100 mL) and the combined organic layer was washed with H2O, followed by brine. The solution was dried (MgSO4), and evaporated to give a dark yellow residue which was purified by flash chromatography (EtOAc:hexane 1:5, then 1:3). The product was filtered from the column fractions to give a beige solid (67.6 g, mp=110°-112° C.). The filtrate was concentrated and the resulting residue was recrystallized from EtOAc/hexane 1:4 to give a second crop of 15.1 g.

reactant | 3-(2-(7-chloro-2-quinolinyl)ethenyl)benzaldehyde | ClC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(C=O)C=CC1 | C18H12ClNO
reactant | vinylmagnesium bromide | 1.0M | C(=C)[Mg]Br
reactant | toluene THF | 0.37 mol, 370 mL | C1(=CC=CC=C1)C.C1CCOC1
solvent | toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-(2-(7-chloro-2-quinolinyl)ethenyl)phenyl)-2-propen-1-ol | 67.6 g | ClC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(C=CC1)C(C=C)O | C20H16ClNO
